US09193723B2
2-bromo-N-(imidazo[1,2-a]pyridin-6-ylmethyl)thiazole-5-carboxamide
The title compound was prepared as described in Example 1A, substituting imidazo[1,2-a]pyridin-6-ylmethanamine for 3-methylbutan-1-amine and 2-bromothiazole-5-carboxamide for 4-nitrobenzoic acid.

reactant | 3-methylbutan-1-amine | CC(CCN)C | C5H13N
reactant | 2-bromothiazole-5-carboxamide | BrC=1SC(=CN1)C(=O)N | C4H3BrN2OS
reactant | 4-nitrobenzoic acid | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | 2-bromo-N-(imidazo[1,2-a]pyridin-6-ylmethyl)thiazole-5-carboxamide | BrC=1SC(=CN1)C(=O)NCC=1C=CC=2N(C1)C=CN2 | C12H9BrN4OS
